US04885292
(b) N-[(1S)-2-Cyclohexyl-1-[(R)-hydroxy[1-[(phenylmethoxy)methyl]-1H-imidazol-2-yl]methyl]ethyl]-N2 -[N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanyl]-L-leucinamide
To a mixture of this acid (753 mg., 2.0 mmole), [(1S)-1-(cyclohexylmethyl)-2-hydroxy-2-[1-[(phenylmethoxy)methyl]-1H-imidazol-2-yl]ethyl]-carbamic acid, 1,1-dimethylethyl ester, slow isomer from Example 6(d) (887 mg., 2.0 mmole), and 1-hydroxybenzotriazole hydrate (306 mg., 2.0 mmole) in tetrahydrofuran (8 ml.) at 0° is added diisopropylethylamine (731 μl., 4.2 mmole) followed by dicyclohexylcarbodiimide (416 mg., 2.0 mmole). The reaction mixture is stirred at 0° for about 2 hours and then kept overnight in the cold room (about 5°). The next day, the precipitated dicyclohexyl urea is filtered off and the residue is redissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate solution (2×30 ml.) and saturated aqueous sodium chloride (2×30 ml.), dried over sodium sulfate, filtered, and concentrated to give 1.339 g. of a crude residue. Repeated flash chromatographies (silica gel, eluting with 9:1:0.1 and 15:1:0.05 chloroform:methanol:acetic acid) gives 1.021 g. of N-[(1S)-2-cyclohexyl-1-[(R)-hydroxy[1-[(phenylmethoxy)methyl]-1H-imidazol-2-yl]methyl]ethyl]-N2 -[N-[(1,1-dimethylethoxy)carbonyl]-L-leucinamide. TLC (silica gel; chloroform:methanol:acetic acid, 9:1:0.1) Rf =0.5 .

reactant | [(1S)-1-(cyclohexylmethyl)-2-hydroxy-2-[1-[(phenylmethoxy)methyl]-1H-imidazol-2-yl]ethyl]-carbamic acid, 1,1-dimethylethyl ester | C1(CCCCC1)C[C@@H](C(C=1N(C=CN1)COCC1=CC=CC=C1)O)NC(OC(C)(C)C)=O | C25H37N3O4
reactant | 1-hydroxybenzotriazole hydrate | 2.0 mmole, 306 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 4.2 mmole, 731 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dicyclohexylcarbodiimide | 2.0 mmole, 416 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-[(1,1-dimethylethoxy)carbonyl]-L-leucinamide | CC(C)(OC(=O)NC([C@@H](N)CC(C)C)=O)C | C11H22N2O3
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[(1S)-2-Cyclohexyl-1-[(R)-hydroxy[1-[(phenylmethoxy)methyl]-1H-imidazol-2-yl]methyl]ethyl]-N2 -[N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanyl]-L-leucinamide | C1(CCCCC1)C[C@@H]([C@H](C=1N(C=CN1)COCC1=CC=CC=C1)O)NC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)CC(C)C)=O | C40H57N5O6
